US07943619B2
e) 6-{[3-(5-Chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid
As described for example 112a, 6-{[3-(5-chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid ethyl ester (405 mg, 1.1 mmol) was converted, instead of 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester, to the title compound (346 mg, 92%) which was obtained as an off white solid. MS: m/e=343.9 [M−H]−.

reactant | 6-{[3-(5-chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid ethyl ester | 1.1 mmol, 405 mg | C(C)OC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=NC=C(C=C1)Cl | C17H16ClN5O3
reactant | 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl | C16H12ClN3O4
product | 6-{[3-(5-Chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid | 346 mg, 92% | ClC=1C=CC(=NC1)C1=NOC(=C1CNC1=CC=C(N=N1)C(=O)O)C | C15H12ClN5O3
